US04233333
291 gm (2.5 mol) of chlorosulfonic acid were added in portions to 208 gm (1.0 mol) of phosphorus pentachloride while stirring and cooling. After the evolution of hydrogen chloride had subsided, 98 gm (1.0 mol) of 2-methyl-thiophene were added dropwise while stirring at a temperature of 10° C. When the addition was finished, the mixture was stirred for another 10 minutes. After pouring the reaction mixture over 2.5 kg of ice, the obtained sulfochloride was separated by extracting 5 times with 500 ml of ether. The organic phase was washed twice with 200 ml of water, dried and evaporated in vacuo. The residual oil was taken up in 200 ml of tetrahydrofuran and added, while stirring, dropwise to a solution of 183 gm (2.5 mol) of tert. butylamine in 100 ml of tetrahydrofuran at a temperature of 20° C. The mixture was stirred for 1 hour at room temperature and for 20 minutes at 70° C. bath temperature. The crystals of tert. butylamine hydrochloride which separated out were filtered off and washed with ether. The combined filtrates were evaporated, and the residue was taken up in ether. After washing with 2 N hydrochloric acid and water, the residue was dried over sodium sulfate and again evaporated. The obtained crude product was recrystallized from cyclohexane, yielding 182 gm (78% of theory) of N-tert.-butyl-5-methyl-thiophene-2-sulfonamide.

reactant | chlorosulfonic acid | 2.5 mol, 291 gm | ClS(=O)(=O)O | ClHO3S
reactant | phosphorus pentachloride | 1.0 mol, 208 gm | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydrogen chloride | Cl | ClH
reactant | 2-methyl-thiophene | 1.0 mol, 98 gm | CC=1SC=CC1 | C5H6S
reactant | tert. butylamine | 2.5 mol, 183 gm | C(C)(C)(C)N | C4H11N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-tert.-butyl-5-methyl-thiophene-2-sulfonamide | 182 gm, 78% | C(C)(C)(C)NS(=O)(=O)C=1SC(=CC1)C | C9H15NO2S2
